US08455479B2
Step 4: Preparation of [3-[3-(4-fluoro-phenyl)-4H,6H-1,2,5,10b-tetraaza-benzo[e]azulen-5-yl]-3-oxo-1-(2,4,5-trifluoro-benzyl)-propyl]-carbamic acid tert-butyl ester
3-(4-Fluoro-phenyl)-4H,6H-1,2,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester was deprotected using trifluoroacetic acid and the resulting salt was coupled with (R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid using HOBT, EDC and DIPEA. The desired compound was obtained as a viscous oil.

reactant | 3-(4-Fluoro-phenyl)-4H,6H-1,2,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(N3N=NC(=C3C1)C1=CC=C(C=C1)F)C=CC=C2 | C21H21FN4O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C15H18F3NO4
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | EDC
product | [3-[3-(4-fluoro-phenyl)-4H,6H-1,2,5,10b-tetraaza-benzo[e]azulen-5-yl]-3-oxo-1-(2,4,5-trifluoro-benzyl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC(=O)N1CC2=C(N3N=NC(=C3C1)C1=CC=C(C=C1)F)C=CC=C2)CC2=C(C=C(C(=C2)F)F)F)=O | C31H29F4N5O3
